US04124590
N-[2-Chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl]4aminobutyric Acid
2-Chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl chloride (1.75 g.) is added to a solution of 4-aminobutyric acid (0.54 g.) in water (30 ml.), acetone (30 ml.) and 1N sodium hydroxide (10 ml.). After stirring at room temperature for a half hour, the acetone is removed by evaporation, and the aqueous solution is acidified with concentrated hydrochloric acid. The precipitate is dissolved in 50 ml. of hot acetone-methanol (1:1) and concentrated to half volume. Hexane is added to crystallize the product, m.p. 193°-195° C.

reactant | 2-Chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl chloride | 1.75 g | ClC1=C(C(=O)Cl)C=C(C=C1)S(=O)(=O)N1C[C@H](C[C@H](C1)C)C | C14H17Cl2NO3S
reactant | 4-aminobutyric acid | 0.54 g | NCCCC(=O)O | C4H9NO2
solvent | water | 30 ml | O | H2O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
product | N-[2-Chloro-5-(cis-3,5-dimethylpiperidinosulfonyl)benzoyl]4aminobutyric Acid | ClC1=C(C(=O)NCCCC(=O)O)C=C(C=C1)S(=O)(=O)N1C[C@H](C[C@H](C1)C)C | C18H25ClN2O5S
